data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_142578_1,[C:1]1([H:12])([H:13])[C:4]([C:2]([H:15])([H:16])[H:17])([C@@:7]([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([N:6]([H:10])[H:11])[H:14])[O:8]1>>[C:1]([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([O:8]/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:7](/[N:6]([H:10])[H:11])[H:14])([H:12])[H:13],49.66850749997647
MR_312779_1,[C:1](/[C:5]([N:4]([C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])=[N:9]/[H:12])([N:8][C:7]([C:3]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])/[C:5](=[N:9]/[H:12])[N:8]1[C@:7]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])[H:15],68.94969999998466
MR_164192_1,[C:1]1([H:12])([H:13])[C:5]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])([N:4]([N:6]([H:9])[H:10])[H:8])[N:7]1[H:11]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])(/[C:5]([N:4]([N:6]([H:9])[H:10])[H:8])=[N:7]\[H:11])([H:12])[H:13],70.17959999998268
MR_138916_0,[C:1]1([C:2]([N:6]([H:12])[H:13])([C:7](=[O:8])[H:14])[H:10])([H:9])[C:3]([C:5]([H:17])([H:18])[H:19])([H:11])[C:4]1([H:15])[H:16]>>[C:1](=[C:2](/[N:6]([H:12])[H:13])[H:10])(\[C:4]([C@:3]([C:5]([H:17])([H:18])[H:19])([C:7](=[O:8])[H:14])[H:11])([H:15])[H:16])[H:9],61.54833749998062
MR_630965_1,[C:1]1([H:10])([H:11])/[C:5](=[N:8]\[H:9])[N:4]([C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]1[H:12]>>[C:1]1([H:10])([H:11])/[C:5](=[N:8]\[H:9])[C:7]1(/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:4]/[C:2]([H:13])([H:14])[H:15])[H:12],71.27270500000506
MR_505920_1,[C:1]([C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])=[N:10]\[H:11])=[N:9]/[C:7]([C:3]([H:19])([H:20])[H:21])=[C:8](/[C:4]([H:22])([H:23])[H:24])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[N:9][C:7]([C:3]([H:19])([H:20])[H:21])([C:8](=[C:4]([H:22])[H:23])[H:12])[C:6]1([C:2]([H:16])([H:17])[H:18])[N:10]([H:11])[H:24])([H:13])([H:14])[H:15],52.839892499995074
MR_1152_0,[C:1]1([C:4]([H:18])([H:19])[H:20])([O:7][H:10])[C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([O:8][H:11])[O:9]1>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([C:6]([O:8][H:11])=[O:9])[O:7][H:10],17.954029999970373
MR_309404_1,[C@@:1]1([C:4]([C@:2]([C:6]([O:8][H:11])=[O:10])([O:9][H:12])[H:14])([H:16])[H:17])([H:13])[C@@:3]([C:5]([H:18])([H:19])[H:20])([H:15])[O:7]1>>[C:1]1([C:4]([C:2]([C:6]([O:8][H:11])=[O:10])([O:9][H:12])[H:14])([H:16])[H:17])([H:13])[C:3]([C:5]([H:18])([H:19])[H:20])([H:15])[O:7]1,61.28917999999288
MR_134372_0,[C:1](/[C:4](=[C:3](/[N:2]([H:7])[H:8])[H:11])[H:12])([O:5][H:6])([H:9])[H:10]>>[C:1](=[C:4](/[C:3]([N:2]([H:7])[H:8])([H:10])[H:11])[H:12])(\[O:5][H:6])[H:9],66.61979249999952
MR_306759_0,[C:1]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])/[C:5]([N:7]([H:11])[H:12])=[N:8]/[N:6]([H:9])[H:10])([H:13])[H:14]>>[C:1]([C:3]([H:18])([H:19])[H:20])([N:8](/[C:5](=[N:4]/[C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])[N:6]([H:9])[H:10])([H:13])[H:14],64.76803999998424
MR_272107_1,[C:1]1([N:5]([H:11])[H:12])([H:8])[C:2]([C:6](=[C:7]([H:17])[H:18])[H:13])([H:9])[C:3]1([C:4]([H:14])([H:15])[H:16])[H:10]>>[C:1](\[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:10])[H:11])([C:6](=[C:7]([H:17])[H:18])[H:13])[H:9])(=[N:5]/[H:12])[H:8],59.652659999987065
MR_86304_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:5]([C:4]([H:19])([H:20])[H:21])=[C:7](/[O:8][H:9])[H:12])[N:6]([H:10])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:5]([C:4]([H:19])([H:20])[H:21])[C@@:7]([N:6]([H:10])[H:11])([O:8][H:9])[H:12],70.17395250003261
MR_554089_1,[C:1]([C:3](=[C:2]([O:5][H:9])[O:6][H:8])/[C:4](=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:4]([H:11])[N:7]([H:10])[C:2]1([O:5][H:9])[O:6][H:8])([H:12])([H:13])[H:14],48.91550750002281
MR_21455_1,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])[C:5](=[C:7]([H:17])[H:18])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:5](\[C:7]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])([H:17])[H:18])[H:8])([H:9])([H:10])[H:11],69.68011000003102
MR_405354_1,[C:1](/[N:8]=[C:7](\[C:4](=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])[N:6]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:5]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])[C:4]([N:6]([H:9])[H:10])=[C:7]1[H:11])([H:12])([H:13])[H:14],56.967587499989065
MR_614520_0,[C@:1]1([O:6][O:7][H:8])([H:11])[C@:2]([N:5]([H:13])[H:14])([H:12])[N:4]([H:10])[N:3]1[H:9]>>[C:1]1([C@:2]([N:5]([H:13])[H:14])([O:6][O:7][H:8])[H:12])([H:11])[N:3]([H:9])[N:4]1[H:10],59.49390249999553
MR_132298_1,[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:7]([C:4]([H:18])([H:19])[H:20])=[O:8])[H:9])([N:6]([C:2]([H:12])([H:13])[H:14])[H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([N:6]([C:2]([H:12])([H:13])[H:14])[H:10])[H:9])([C:7]([C:4]([H:18])([H:19])[H:20])=[O:8])[H:11],57.6151674999592
